Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weakness, abdominal pain, SOB
 
Major Surgical or Invasive Procedure:
___ Flexibile bronchoscopy with endobronchial ultrasound 
(EBUS)with transbronchial needle aspiration
 
History of Present Illness:
Ms. ___ is a ___ year old female with a history of IDDM, 
currently being worked up for pulmonary sarcoidosis, who 
presents as a transfer from ___ with concern for 
DKA. Patient has an insulin pump which she states stopped 
working for a few hours on ___. She subsequently changed the 
pump and found her FSBG to be significantly elevated. She then 
presented to ___ for further evaluation. FSBG at 
___ was found to be in the 400s with anion gap of 20. She 
received 2 L of LR, 1 L normal saline, but no insulin prior to 
transfer to ___ (as she is set to undergo bronchoscopy with IP 
for sarcoid workup on ___. She had one episode of NBNB emesis 
at the OSH. She reports dyspnea on exertion and intermittent dry 
cough which she states has been ongoing and thought to be 
associated with this probable diagnosis of sarcoidosis. She 
denies nausea, abdominal pain, diarrhea, cough, dysuria, 
hematuria, or recent fevers. 

On presentation to ___ ED, initial vital signs show: 97.8 115 
92/42 20 99% RA with FSBG of 424. Labs were significant for: VBG 
7.___/11, K 5.6, Na 126 (corrected 133), HCO3 9, AG 20, 
trop < 0.01, lactate 2.6, WBC 12.1. CXR showed: Bilateral hilar 
adenopathy, better seen on recent chest CT, can be seen in 
sarcoidosis but lymphoma and other neoplastic etiologies cannot 
be excluded.
Medications received: 2L NS, insulin gtt at 6 units/hr

Patient was then admitted to the ___ for DKA. 

 
Past Medical History:
DMI, diagnosed at age ___.  Hospitalized at time of 
diagnosis but no other DM-related hospitalizations, no prior 
episodes of DKA.  Has insulin pump managed by ___.  Checks 
blood sugars herself QID.  Blood sugars usually run 100-250.  No 
known neuropathy, nephropathy or eye problems.
Epilepsy, last seizure ___ years ago
Hypothyroidism
Hypercholesterolemia
Anxiety

 
Social History:
___
Family History:
Non-contributory to patient's current admission.
 
Physical Exam:
Admission Physical Exam
VITALS: T 97.9 BP 139/58 P ___ RR 23 98%RA
GENERAL: NAD, AAOx3
HEENT: Bilateral parotid enlargement, non-tender. Sclera 
anicteric, oropharynx clear  
NECK: supple, no cervical LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Tachycardic, normal S1 S2, no murmurs, rubs, gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: Mild erythema on bilateral shins around ankles
NEURO: Moves all extremities with purpose, no focal deficit
ACCESS: PIV

DISCHARGE PHYSICAL EXAM:
VITALS:  97.9 PO 125 / 79 92 18 96 1L NC-RA   
GENERAL: young woman in NAD, AAOx3, speaking in full sentences.
Comfortable appearing.  
HEENT: Bilateral parotid enlargement, non-tender. Sclera
anicteric, oropharynx clear. MMM 
NECK: supple, no cervical LAD  
CHEST: rales in b/l lower loabes and ___, no wheezes or
rhonchi. no accessory muscle use. EWOB. improved aearation at
bases compared to yesterday.
CV: RRR, nl S1/S2, no murmurs, rubs, gallops  
ABD: soft, NT/ND NABS, no HSM, no r/g. 
EXT: WWP, 2+ pulses, no clubbing, cyanosis or edema  
SKIN: Mild erythema on bilateral shins around ankles. RLQ pmp
insertion site without erythema, induration, or nodules. 
NEURO: Non-focal  

 
Pertinent Results:
ADMISSION LABS
___ 07:04AM BLOOD WBC-12.1*# RBC-4.42 Hgb-12.3 Hct-37.2 
MCV-84 MCH-27.8 MCHC-33.1 RDW-12.2 RDWSD-37.3 Plt ___
___ 07:04AM BLOOD Neuts-87.5* Lymphs-6.4* Monos-5.1 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-10.59*# AbsLymp-0.78* 
AbsMono-0.62 AbsEos-0.00* AbsBaso-0.05
___ 07:04AM BLOOD Glucose-528* UreaN-24* Creat-1.1 Na-126* 
K-5.6* Cl-97 HCO3-9* AnGap-20*
___ 07:04AM BLOOD cTropnT-<0.01
___ 07:04AM BLOOD Albumin-3.6 Calcium-9.8 Phos-4.7* Mg-1.7
___ 07:15AM BLOOD ___ pO2-47* pCO2-28* pH-7.18* 
calTCO2-11* Base XS--16
___ 07:15AM BLOOD Lactate-2.6* K-5.6*

INTERVAL LABS
___ 03:10AM BLOOD WBC-9.7 RBC-3.82* Hgb-11.0* Hct-31.2* 
MCV-82 MCH-28.8 MCHC-35.3 RDW-13.2 RDWSD-39.3 Plt ___
___ 10:50AM BLOOD Glucose-105* UreaN-4* Creat-0.6 Na-132* 
K-3.6 Cl-100 HCO3-17* AnGap-15
___ 03:10AM BLOOD Calcium-8.1* Phos-1.8* Mg-1.5*
___ 10:54AM BLOOD ___ pO2-77* pCO2-23* pH-7.46* 
calTCO2-17* Base XS--4

MICROBIOLOGY
BAL.LAD Bx
      STAPH AUREUS COAG +.    RARE GROWTH. . 
      BETA STREPTOCOCCUS GROUP B.    SPARSE GROWTH. 
      VIRIDANS STREPTOCOCCI.    RARE GROWTH. 
      GRAM POSITIVE RODS.    RARE GROWTH. 

                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

      MIXED BACTERIAL FLORA. 
      STAPH AUREUS COAG +.    RARE GROWTH. 
      BETA STREPTOCOCCUS GROUP B.    SPARSE GROWTH. 
      VIRIDANS STREPTOCOCCI.    RARE GROWTH. 
      GRAM POSITIVE RODS.    RARE GROWTH. 

             SENSITIVITIES: MIC expressed in MCG/ML 
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

___ Urine:  GRAM POSITIVE BACTERIA. 10,000-100,000 CFU/mL. 
Alpha hemolytic colonies consistent with alpha streptococcus or 
Lactobacillus sp.

CXR ___ moderate to severe parenchymal opacities, 
predominantly within the mid to lower right lung with air 
bronchograms appears grossly unchanged compared to the prior 
exam.  Small right pleural effusion is persistent.  The 
cardiomediastinal silhouette otherwise appears unchanged.  The 
visualized osseous structures are unremarkable.  There is no 
evidence of a pneumothorax. IMPRESSION: Overall, stable 
appearance of the moderate to severe parenchymal opacities 
within the right lung compared to the prior exam from ___. 

___ CXR: There is only minimal decrease in extent and severity 
of the severe bilateral parenchymal opacities. The multiple 
pre-existing rounded consolidations in the lung parenchyma are 
stable. No evidence of pneumothorax. No pleural effusions. 

___ CXR: New alveolar airspace opacity when compared to the 
previous study. Hemorrhage as well as other etiologies should be 
considered in this patient who is status post lung biopsy. 
Bilateral hilar adenopathy. 

___ CXR: Bilateral hilar adenopathy, better seen on recent 
chest CT, can be seen in sarcoidosis but lymphoma and other 
neoplastic etiologies cannot be excluded. 

DISCHARGE LABS:
___ 06:50AM BLOOD WBC-5.3 RBC-3.52* Hgb-10.0* Hct-29.4* 
MCV-84 MCH-28.4 MCHC-34.0 RDW-12.6 RDWSD-38.2 Plt ___
___ 06:50AM BLOOD Glucose-132* UreaN-4* Creat-0.7 Na-135 
K-3.8 Cl-94* HCO3-26 AnGap-15
___ 06:50AM BLOOD Calcium-8.9 Phos-4.7* Mg-1.5*
 
Brief Hospital Course:
# DKA. 
# Type 1 DM, poorly controlled (recent A1c 10%). Patient 
initially presented with weakness, abdominal pain, SOB, found to 
have FSBG of 424 and initial VBG of ___ and was 
admitted for DKA. Most likely etiology is insulin pump 
malfunction as per patient's history. Patient was started on 
insulin drip of 6 units/hr, received IVF per protocol with 
aggressive K repletion. Once anion gap was closed, patient was 
started on SQ insulin with insulin pump with ___ following. 
Transitioned to the floor, where basal insulin rate was titrated 
down for some low episodes. Discharged with intent to follow-up 
with PCP and ___. Patient was informed that she should she be 
started on steroids as an outpatient, she should contact ___ 
immediately to change her insulin.

# Evaluation for Sarcoidosis. Seen in pulmonary clinic at 
beginning of ___ with clinical presentation, imaging, 
markedly elevated ACE level concerning for sarcoidosis. 
Transferred from ___ to ___ as she is set to 
undergo biopsy with IP and Dr. ___ on ___. Patient underwent 
bronchoscopy with endobronchial US and transbronchial needle 
aspiration on ___ with mediastinal lymph node biopsy, with 
post-procedural issues as below. Biopsy was pending at time of 
discharge. 

# Post-Bronch PNA: After procedure, patient developed a 3L O2 
requirement with fevers and dyspnea. CXR with new infiltrates 
bilaterally. This persisted for 3 days post-bronch, longer than 
would be expected for BAL cause. ID was consulted to eval for 
true pneumonia, after bronchial washing/biopsy grew MSSA. 
Started initially on vancomycin, later changed to a 7 day course 
of augmentin.

CHRONIC ISSUES
# Seizure disorder: Seizure-free for ___ years per PCP ___. 
Continued Lamictal 200 mg BID  
# Anxiety: Continued Citalopram and alprazolam
# Hypothyroidism: Cont Levothyroxine 75 mcg 6x/week  

TRANSITIONAL ISSUES
- New medication: Augmentin 875/125mg BID (final day ___ ___
- Biopsy results from EBUS are pending at time of discharge
- Patient's basal insulin rate titrated down this admission for 
low blood sugars.
- If steroids are prescribed as an outpatient for her underlying 
connective tissue disorder, she will need URGENT follow-up with 
___ to account for effect on glycemic control. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 200 mg PO BID 
2. Citalopram 20 mg PO DAILY 
3. ALPRAZolam 0.5 mg PO QID:PRN anxiety 
4. Levothyroxine Sodium 75 mcg PO 6X/WEEK (___) 
5. Insulin  Pump SC (Self Administering Medication)Insulin 
Lispro (Humalog)
Target glucose: 80-180

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*11 Tablet Refills:*0 
2.  Insulin  Pump SC (Self Administering Medication)Insulin 
Lispro (Humalog)
Target glucose: 80-180
 
3.  ALPRAZolam 0.5 mg PO QID:PRN anxiety  
4.  Escitalopram Oxalate 20 mg PO DAILY  
5.  LamoTRIgine 200 mg PO BID  
6.  Levothyroxine Sodium 75 mcg PO 6X/WEEK (___)  
7.INsulin pump settings
basal rates:
MN 0.9
3am: 0.85
7a 1.1
12p 1.25
6p: 1

Continue ___ ratios
mn 1:15
6a 1:12
5p 1:10
9p 1:15

Continue sensitivity
mn 100
6a 80
9p 100

Continue targets:
___ MN 160
 7 AM 140
10 ___ 160

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diabetic Ketoacidosis
Acute Hypoxic Respiratory Failure
Pneumonia
Sarcoidosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital because ___ were found to have 
DKA after a pump malfunction at home. This was treated and your 
condition improved. ___ also underwent a bronchoscopy for a 
lymph node biosy while hospitalized. Afterwards, ___ developed 
lower oxygen levels and fevers; ___ were treated for a pneumonia 
and your condition improved. 

___ will be discharged to complete a course of antibiotics 
(Augmentin).

The results of your biopsy are pending now, at the time of your 
discharge. ___ will be contacted with the results of the biopsy 
in the near future. 

___ will need to follow-up with your PCP ___ ___ weeks of 
discharge.

If ___ are started on steroids for the treatment of possible 
sarcoidosis, ___ will need to contact the ___ (Dr 
___ for an appointment as soon as possible given its effects 
on blood sugar control.

Please take all medications as prescribed and keep all scheduled 
doctor's appointments. Seek medical attention if ___ develop a 
worsening or recurrence of the same symptoms that originally 
brought ___ to the hospital, experience any of the warning signs 
listed below, or have any other symptoms that concern ___.

It was a pleasure taking care of ___!

Your ___ Care Team

 
Followup Instructions:
___